US07368608B2
To a reaction vessel were added crude (R)-1-(4-chloro-2-acetoxyphenoxy)-2-methanesulfonyloxy-3-phthalimidopropane 242 mg (0.50 mmol), sodium carbonate 58.3 mg (0.60 mmol) and methanol 2 mL, and the mixture was stirred at 50° C. for 9 hours. To the reaction mixture was added ethyl acetate and the mixture was washed with water. The solvent was evaporated and recrystallized to give (S)-7-chloro-2-(phthalimidomethyl)-1,4-benzodioxane 114 mg (yield 70%, chemical purity 98%, optical purity 98% ee) as a white solid.

reactant | (R)-1-(4-chloro-2-acetoxyphenoxy)-2-methanesulfonyloxy-3-phthalimidopropane | 0.50 mmol, 242 mg | ClC1=CC(=C(OC[C@@H](CN2C(C=3C(C2=O)=CC=CC3)=O)OS(=O)(=O)C)C=C1)OC(C)=O | C20H18ClNO8S
reactant | sodium carbonate | 0.60 mmol, 58.3 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-7-chloro-2-(phthalimidomethyl)-1,4-benzodioxane | 114 mg, yield 70% | ClC=1C=CC2=C(O[C@H](CO2)CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C17H12ClNO4
